US07192954B2
Step E. [3-(Cyclopropylmethyl)-2-oxo-1,3-diazepan-1-yl]acetic acid
A solution of tert-butyl [3-(cyclopropylmethyl)-2-oxo-1,3-diazepan-1-yl]acetate (240 mg, 0.85 mmol) in CH2Cl2 (5 mL) and CF3CO2H (2 mL) was stirred at ambient temperature for 3 h. The mixture was concentrated in vacuo and the residue was purified by HPLC using a reversed phase C18 column and eluting with a gradient of H2O:CH3CN:CF3CO2H—90:10:0.1 to 5:95:0.1. Lyophilization provided the title compound as a clear oil. MS: m/z=227 (M+1).

reactant | tert-butyl [3-(cyclopropylmethyl)-2-oxo-1,3-diazepan-1-yl]acetate | 0.85 mmol, 240 mg | C1(CC1)CN1C(N(CCCC1)CC(=O)OC(C)(C)C)=O | C15H26N2O3
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | CF3CO2H | 2 mL | C(F)(F)(F)C(=O)O | C2HF3O2
product | [3-(Cyclopropylmethyl)-2-oxo-1,3-diazepan-1-yl]acetic acid | C1(CC1)CN1C(N(CCCC1)CC(=O)O)=O | C11H18N2O3
